US08304552B2
The TFA salt of N-(2-aminoethyl)nicotinamide (5.0 mmol) was taken up in CH3CN (20 mL) along with (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid (5.0 mmol), HATU (5.5 mmol) and DIEA (15 mmol). The resulting reaction mixture was stirred at room temperature for 2 h and diluted with EtOAc. The organic layer was washed with saturated aqueous NaHCO3, brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by silica gel chromatography (5% MeOH—CH2Cl2) afforded N-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoethyl)nicotinamide. MS calculated for C30H41N3O2: 475.32. found: [M+H]+ 476.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-(2-aminoethyl)nicotinamide | 5.0 mmol | NCCNC(C1=CN=CC=C1)=O | C8H11N3O
reactant | (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid | 5.0 mmol | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C22H32O2
reactant | HATU | 5.5 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 15 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoethyl)nicotinamide | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NCCNC(C1=CN=CC=C1)=O | C30H41N3O2
